US08492582B2
Iron powder (43 mg) was added to a solution mixture of tert-butyl 2-(2-(benzyloxy)-5-nitrobenzamido)-4-phenylbenzoate (0.14 g) in methanol (1.4 mL) and acetic acid (1.4 mL), followed by heating to reflux for 1 hour. The reaction mixture was cooled to room temperature, and iron powder (14 mg) was added thereto, followed by heating to reflux for 30 minutes. The reaction mixture was cooled to room temperature, and a saturated aqueous solution of sodium bicarbonate and ethyl acetate were added thereto. The insoluble substance was removed by filtration. The organic layer was separated, washed with a saturated aqueous solution of sodium bicarbonate and a saturated aqueous solution of sodium chloride sequentially, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The obtained residue was purified by silica gel column chromatography [Kanto Chemical Co., Inc., silica gel 60 (spherical), eluent: 90-50% hexane/ethyl acetate] to obtain 0.065 g of tert-butyl 2-(5-amino-2-(benzyloxy)benzamido)-4-phenylbenzoate as a yellow solid.

reactant | tert-butyl 2-(2-(benzyloxy)-5-nitrobenzamido)-4-phenylbenzoate | 0.14 g | C(C1=CC=CC=C1)OC1=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C=C(C=C1)[N+](=O)[O-] | C31H28N2O6
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | methanol | 1.4 mL | CO | CH4O
solvent | acetic acid | 1.4 mL | C(C)(=O)O | C2H4O2
catalyst | Iron | 43 mg | [Fe] | Fe
catalyst | iron | 14 mg | [Fe] | Fe
product | tert-butyl 2-(5-amino-2-(benzyloxy)benzamido)-4-phenylbenzoate | 0.065 g | NC=1C=CC(=C(C(=O)NC2=C(C(=O)OC(C)(C)C)C=CC(=C2)C2=CC=CC=C2)C1)OCC1=CC=CC=C1 | C31H30N2O4
